US08541394B2
Methyl 3-azido-6-O-benzoyl-2-O-benzyl-3-deoxy-D-glucopyranoside
Methyl 3-azido-2-O-benzyl-3-deoxy-D-glucopyranoside (93 mg) was dissolved in 0.84 mL of pyridine. Benzoyl chloride (45 μL) was added to the solution at −20° C. with stirring, and the mixture was stirred at −20° C. for one hr. Water (14 μL) was added thereto, and the mixture was stirred at −20° C. for 30 min. The contents were concentrated to dryness. Chloroform (10 mL) was added thereto, and the mixture was washed three times with 5 mL of a saturated aqueous sodium bicarbonate solution, three times with 5 mL of a 5% aqueous potassium bisulfate solution and three times with 5 mL of water, was dried over a Glauber's salt and was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (25 g, hexane:ethyl acetate=3:1) to give the title compound (97 mg, yield 78%).

reactant | Methyl 3-azido-2-O-benzyl-3-deoxy-D-glucopyranoside | 93 mg | N(=[N+]=[N-])[C@@H]1[C@H](C(OC)O[C@@H]([C@H]1O)CO)OCC1=CC=CC=C1 | C14H19N3O5
reactant | Benzoyl chloride | 45 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water | 14 μL | O | H2O
solvent | pyridine | 0.84 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 3-azido-6-O-benzoyl-2-O-benzyl-3-deoxy-D-glucopyranoside | 97 mg, yield 78% | N(=[N+]=[N-])[C@@H]1[C@H](C(OC)O[C@@H]([C@H]1O)COC(C1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C21H23N3O6
